US04801593
2-Tetralone (8.76 g) in dry ether (100 ml) was added dropwise to phenyl magnesium bromide (generated from bromobenzene 19.16 g) in dry ether (300 ml). The mixture was refluxed for 1 hr. The reaction mixture was decomposed by careful addition of water. The resulting emulsion was clarified by addition 2M-hydrochloric acid (250 ml) and ether (500 ml). The ether layer was separated and washed with water (100 ml), dilute sodium hydrogen carbonate solution solution (200 ml) and water (100 ml) and dried (magnesium sulphate and evaporated in vacuo to afford 2-hydroxy-2-phenyl-1,2,3,4-tetrahydronaphthalene as an oil. (8.8 g), characterised by its nmr spectrum

reactant | 2-Tetralone | 8.76 g | C1C(CCC2=CC=CC=C12)=O | C10H10O
reactant | phenyl magnesium bromide | 19.16 g | C1(=CC=CC=C1)[Mg]Br
reactant | water | O | H2O
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 2-hydroxy-2-phenyl-1,2,3,4-tetrahydronaphthalene | OC1(CC2=CC=CC=C2CC1)C1=CC=CC=C1 | C16H16O
